US05082841
Preparation of ethyl 2-butyryl-3-(2-phthalimidophenylamino)acrylate.
2-Phthalimidoaniline (44.0 g, 0.21 moles) and ethyl 2-butyryl-3-ethoxyacrylate (45 g, 0.21 moles) were heated together in fusion for 10 minutes then allowed to cool, forming a tan solid. The ethyl 2-buryryl-3-(2-phthalimidophenylamino)acrylate (83.0 g, 97%) was stirred in ether, filtered and dried under vacuum, m.p 153°-5° C.

reactant | 2-Phthalimidoaniline | 0.21 moles, 44.0 g | C1(C=2C(C(N1C1=C(N)C=CC=C1)=O)=CC=CC2)=O | C14H10N2O2
reactant | ethyl 2-butyryl-3-ethoxyacrylate | 0.21 moles, 45 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
solvent | ether | CCOCC | C4H10O
product | ethyl 2-butyryl-3-(2-phthalimidophenylamino)acrylate | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C23H22N2O5
